US06265415B1
Synthesis of 8-amino-6-chloro-2,3-dimethylimidazo[1,2-a]pyridine
A mixture of 2,3-diamino-5-chloropyridine (5.26 g, 36.64 mmol) and 3-bromo-2-butanone (6.2 g, 41.06 mmol) in ethanol (60 ml) was refluxed overnight. After cooling to room temperature, the crystalline product was filtered and washed with ethanol and ether. The crystals were dissolved in methylene chloride and neutralized by aqueous NaHCO3. The organic layer was separated, dried over Na2SO4 and evaporated in vacuo. Yield 3.0 g.

reactant | 2,3-diamino-5-chloropyridine | 36.64 mmol, 5.26 g | NC1=NC=C(C=C1N)Cl | C5H6ClN3
reactant | 3-bromo-2-butanone | 41.06 mmol, 6.2 g | BrC(C(C)=O)C | C4H7BrO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 8-amino-6-chloro-2,3-dimethylimidazo[1,2-a]pyridine | NC=1C=2N(C=C(C1)Cl)C(=C(N2)C)C | C9H10ClN3
